US06680326B2
a) Preparation of 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid (3-methoxy-phenyl)-amide
5,7-Dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester (18 g) (see, Robin D. Allan and Joyce Fong, Aust. J. Chem., Vol. 36, Pp. 1221-1226, 1983), m-anisidine (17.7 ml) and acetic acid (9 ml) were suspended in toluene (1,000 ml). This mixture was refluxed for 110 minutes under nitrogen. The mixture was cooled to room temperature and the precipitate (ppt) was collected with suction. The ppt was washed with toluene and dichloromethane and dried under reduced pressure to give a brown powder (21.6 g). ESI−MS: m/z 297 (MH+); 1H-NMR (DMSO-d6): δ3.74 (3H, s), 6.54 (1H, dd, J=8.5 Hz, J=2.5 Hz), 7.00 (1H, bd, J=8.5 Hz), 7.17 (1H, t, J=8.5 Hz), 7.42 (1H, t-like, J=ca 2.5 Hz), 7.73 (1H, d, 5 Hz), 8.71 (1H, s), 8.91 (1H, d, J=5 Hz), 10.65 (1H, brs).

reactant | 5,7-Dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester | 18 g | C(C)OC(=O)C1C(C=2C=CN=CC2C1=O)=O | C11H9NO4
reactant | m-anisidine | 17.7 ml | COC1=CC(=CC=C1)N | C7H9NO
reactant | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 1,000 ml | C1(=CC=CC=C1)C | C7H8
product | 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid (3-methoxy-phenyl)-amide | 21.6 g | COC=1C=C(C=CC1)NC(=O)C1C(C=2C=CN=CC2C1=O)=O | C16H12N2O4
